### ISSUE TITLE
`rw` does not infer `Nat -> Prop` to be `SPred [Nat]`

### ISSUE THREAD

**Issue by sgraf812** [sgraf812/mpl#1]
This
```
example {s : Nat} : (spred(((fun s => ⌜True⌝) ∧ (fun s => ⌜True⌝))) : SPred [Nat]) s = True ∧ True := by rw[SPred.and_cons]; simp
```
works, but this
```
example {s : Nat} : (spred(((fun s => True) ∧ (fun s => True))) : SPred [Nat]) s = True ∧ True := by rw[SPred.and_cons]; simp
```
does not; the rewrite fails. Figure out whether I can fix this on the library side.

**Comment by sgraf812** [comment]
The same happens for PAPs:

```
example {s : Nat} {P : Nat → Nat → Prop}: (spred(P 1 ∧ P 2) : SPred [Nat]) s = P 1 s ∧ P 2 s := by rw[SPred.and_cons]; simp
```
